US05434268
Preparation of 1-[4-chloro-3-(2,2,3,3,3-pentafluoropropoxymethyl)phenyl]-5-phenyl-1-H-1,2,4-triazole-3-carboxamide
A 29% ammonia aqueous solution (8.82 g, 150 mmol) was added to 100 g of water, and to the solution was added 2-phenyl-4,5-oxazoledione 4-[4-chloro-3-(2,2,3,3,3-pentafluoropropoxy)methylphenyl]hydrazone (39.7 g, purity: 97%, water content: 40%, 50 mmol). The mixture was vigorously stirred to produce a slurry. The slurry was heated to 80° C. in a water bath. In the course of the heating, the slurry abruptly changed its color, exhibiting an increase in the viscosity, at 65°-70° C.

reactant | ammonia aqueous | 150 mmol, 8.82 g | [NH4+].[OH-]
reactant | 2-phenyl-4,5-oxazoledione 4-[4-chloro-3-(2,2,3,3,3-pentafluoropropoxy)methylphenyl]hydrazone | 50 mmol, 39.7 g | ClC1=C(C=C(C=C1)NN=C1N=C(OC1=O)C1=CC=CC=C1)COCC(C(F)(F)F)(F)F | C19H13ClF5N3O3
solvent | water | 100 g | O | H2O
product | 1-[4-chloro-3-(2,2,3,3,3-pentafluoropropoxymethyl)phenyl]-5-phenyl-1-H-1,2,4-triazole-3-carboxamide | ClC1=C(C=C(C=C1)N1N=C(N=C1C1=CC=CC=C1)C(=O)N)COCC(C(F)(F)F)(F)F | C19H14ClF5N4O2
